Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr ___ is a pleasant ___ w/ HTN, DL, DVT, and frontal GBM 
s/p
surgical resection, XRT, and temozolomide who presented to
___ clinic after he had a fall at home. He was seen 
by
Dr ___ ordered brain MRI and noted unfortunately disease
progression. He referred pt for admission for expedited
treatment.

In the ED, initial VS were pain 0, T 98.1, HR 60, BP 134/87, RR
18, O2 96%RA. Labs notable for WBC 4.0, HCT 43.6, PLT 179, Na
141, K 3.9, HCO3 27, Cr 0.8. He received 8mg IV dexamethasone
prior to transfer to medicine for further management. 

On arrival to ___, pt noted that when he completed XRT/TMZ ___,
he had not noted any improvement of his left hemiparesis. He
gradually developed increased weakness, increased difficulty
ambulatiing, increased swelling of his LLE (now dx as DVT), and
increased SOB and work rising his stairs at home. He denied any
CP w/ exertion. He noted 1 seizure w/ his LUE and none since
then. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
___ Onset of left sided weakness, HA, dizziness, imbalance
___ ED visit in ___
___ Head CT showed right frontal mass
___ Brain MRI showed right frontal mass
___ Right frontal craniotomy and biopsy of tumor by Dr.
___: glioblastoma
___ fMRI 
___ Resection of the right frontal mass by Dr. ___: glioblastoma
___ Brain MRI
___ - ___ IMRT/TMZ
___ Brain MRI shows contralateral progression

PAST MEDICAL HISTORY (per OMR):
1. Right frontal glioblastoma
2. Hypothyroidism 
3. Hypertension
4. Dyslipidemia 
5. Right knee surgery, ___
6. Prostate cancer, prostatectomy, ___
7. Cataracts bilateral
 
Social History:
___
Family History:
Of his three siblings, one brother died in his ___ with what he 
believes was multiple myeloma, and a second brother is not in 
touch and unsure about his healthy, and a third brother is 
healthy. His mother died at ___ with unknown disease and his 
father died at ___ with cancer, details are not known. He is a
___ working for a local ___. He 
never smoked. 
 
Physical Exam:
ADMISSION EXAM
VITAL SIGNS: ___ 60 134/87 18 96% RA
General:  NAD, Resting in bed comfortably
HEENT:  MMM, NC AT
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB, No C/W/R, No respiratory distress
ABD:  BS+, soft, NTND, no palpable masses or HSM
LIMBS: WWP, + significantly increased girth of LLE > RLE, no
tremors
SKIN:  No rashes on the extremities
NEURO:  Speech fluent, thought process logical, linear, future
oriented, strength ___ RUE/RLE, 3+/5 LUE/LLE. 

DISCHARGE EXAM:
Vital Signs: 98.3PO 136 / 80 71 20 96% RA  
GEN: Alert, NAD
HEENT: NC/AT
CV: RRR, no m/r/g
PULM: CTA B 
GI: S/NT/ND, BS present 
EXT: ___ LLE edema
NEURO: 
RUE--> ___ throughout
LUE--> ___ hand squeeze, ___ elbow flexion/extension, ___ 
shoulder abduction
RLE--> ___ throughout
LLE--> ___ hip flexion and foot dorsi/plantarflexion, 4+/5 knee 
flexion/extension
 
Pertinent Results:
Brain MRI: 
1. New area of rim enhancement in the left frontal lobe with 
surrounding
edema.  The rim of the lesion demonstrates slow diffusion.  The 
findings are
suggestive of a new area of disease progression.
2. Enhancement is seen at the surgical margin but new area of 
enhancement is
also seen posterior to the surgical site and demonstrates 
surrounding edema
also suggestive of disease progression.
3. At the time of interpretation of the study ___, 
referring
physician ___ is aware of the findings of disease 
progression.

Admission Labs
___ 08:10PM BLOOD WBC-4.0# RBC-4.88 Hgb-14.2 Hct-43.6 
MCV-89 MCH-29.1 MCHC-32.6 RDW-12.6 RDWSD-41.4 Plt ___
___ 08:10PM BLOOD Neuts-58.9 ___ Monos-10.4 Eos-1.8 
Baso-1.3* Im ___ AbsNeut-2.33# AbsLymp-1.08* AbsMono-0.41 
AbsEos-0.07 AbsBaso-0.05
___ 08:10PM BLOOD Glucose-89 UreaN-15 Creat-0.8 Na-141 
K-3.9 Cl-101 HCO3-27 AnGap-17
___ 08:10PM BLOOD Calcium-9.8 Phos-4.4 Mg-2.0
 
Brief Hospital Course:
#GBM
Unfortunately MRI revealed disease progression after recently 
completing XRT/TMZ on ___. Discussed case with Dr. ___ 
for outpatient bevacizumab and cyber knife. His dexamethasone 
was increased to Dexamethesone 8mg QAM, 4mg Q4PM. He was 
continued on his Keppra. 

#Fall
This likely occurred in the setting of his left lower extremity 
weakness. He was evaluated by ___ who noted he was safe for 
return home. The patient plans to have his bed moved to the 
first floor so that he doesn't have to navigate the stairs in 
his home. 

# DVT
We increased his Lovenox to 120mg BID based on his weight. This 
was discussed with Dr. ___. 

# HTN: cont lisinopril and hctz
# DL: not on statin
# HypoTSH: cont synthroid 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325-650 mg PO Q6H:PRN fever or pain 
2. Famotidine 20 mg PO DAILY 
3. Hydrochlorothiazide 6.25 mg PO DAILY 
4. LevETIRAcetam 1000 mg PO BID 
5. Levothyroxine Sodium 200 mcg PO DAILY 
6. Lisinopril 5 mg PO DAILY 
7. Dexamethasone 1 mg PO DAILY 
Tapered dose - DOWN 
8. Enoxaparin Sodium 80 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
9. Cialis (tadalafil) 5 mg oral DAILY:PRN 
10. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain  
2.  Famotidine 20 mg PO DAILY  
3.  LevETIRAcetam 1000 mg PO BID  
4.  Dexamethasone 8 mg PO DAILY 
RX *dexamethasone 4 mg 2 tablet(s) by mouth in the morning Disp 
#*60 Tablet Refills:*0 
5.  Dexamethasone 4 mg PO DAILY 
RX *dexamethasone 4 mg 1 tablet(s) by mouth in the afternoon 
Disp #*30 Tablet Refills:*0 
6.  Enoxaparin Sodium 120 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 120 mg/0.8 mL 120 mg SC every 12 hours Disp #*60 
Syringe Refills:*0 
7.  Cialis (tadalafil) 5 mg oral DAILY:PRN  
8.  Hydrochlorothiazide 6.25 mg PO DAILY  
9.  Levothyroxine Sodium 200 mcg PO DAILY  
10.  Lisinopril 5 mg PO DAILY  
11.  Vitamin D ___ UNIT PO DAILY  
12.Medical Equipment
Rolling Walker
Diagnosis: GBM, difficult with ambulation
Prognosis: Fair
Duration of need: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Glioblastoma
Fall

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Mr. ___, it was a pleasure taking care of your during 
admission due ___. You were admitted for a fall. Your MRI 
showed progression of your disease. We increased your 
dexamethasone dosing. You were evaluated by the physical therapy 
team. You should follow up with your neuro-oncologist to discuss 
your treatment further.
 
Followup Instructions:
___